US04985419
A 3.5N acetone solution (1.42 cc) of hydrocloric acid is added dropwise to an acetone solution (11 cc) of N-benzyl-10-[(2RS)-1-diethylamino-2-propyl]-2-phenothiazinecarboxamidine (0.74 g). The mixture is stirred for 3 hours at 25° C. and then concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 50° C. The residue is taken up in ethyl ether (50 cc) and the suspension is kept stirred for 3 hours at 25° C. The solid is filtered off on sintered glass, washed with ethyl ether (2×5 cc) and dried for 12 hours under reduced pressure (5 mm Hg; 0.7 kPa) to give N-benzyl-10-[(2RS)-1-diethylamino-2-propyl]-2-phenothiazinecarboxamidine dihydrochloride (0.76 g), m.p. 206°-207° C.

reactant | hydrocloric acid | Cl | ClH
reactant | N-benzyl-10-[(2RS)-1-diethylamino-2-propyl]-2-phenothiazinecarboxamidine | 0.74 g | C(C1=CC=CC=C1)NC(=N)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN(CC)CC)C | C27H32N4S
solvent | acetone | 11 cc | CC(=O)C | C3H6O
solvent | acetone | 3.5N, 1.42 cc | CC(=O)C | C3H6O
product | N-benzyl-10-[(2RS)-1-diethylamino-2-propyl]-2-phenothiazinecarboxamidine dihydrochloride | 0.76 g | Cl.Cl.C(C1=CC=CC=C1)NC(=N)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN(CC)CC)C | InChI=1S/C27H32N4S.2ClH/c1-4-30(5-2)19-20(3)31-23-13-9-10-14-25(23)32-26-16-15-22(17-24(26)31)27(28)29-18-21-11-7-6-8-12-21;;/h6-17,20H,4-5,18-19H2,1-3H3,(H2,28,29);2*1H
